US07323475B2
a. (S)-2-[(7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester
7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid, 0.33 g, was coupled with L-Alanine methyl ester hydrochloride, 0.150 g, analogously to Example A-1 a). 0.264 G of white solid were obtained: MS-(+)-ion, M+1=415. amu.

reactant | 7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)O)O | C17H12ClNO4
reactant | L-Alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | (S)-2-[(7-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid methyl ester | COC([C@H](C)NC(=O)C=1N=C(C2=CC(=CC=C2C1O)OCC1=CC=CC=C1)Cl)=O | C21H19ClN2O5
